US07105682B2
Step A—Preparation of 2-(6-quinolylamino)pyridine-3-carboxylic acid
A mixture of 2-chloronicotinic acid (1.5 g) and 6-aminoquinoline (1.4 g) was heated at 140° C. neat for 2 h. The reaction was cooled to give a brown solid used in the next step without further purification. MS (ES+): 266 (M+H)+; (ES−): 264 (M−H)−.

reactant | 2-chloronicotinic acid | 1.5 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 6-aminoquinoline | 1.4 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
product | 2-(6-quinolylamino)pyridine-3-carboxylic acid | N1=CC=CC2=CC(=CC=C12)NC1=NC=CC=C1C(=O)O | C15H11N3O2
